### PR TITLE
chore: complete the bump to 4.29.0

### PR DESCRIPTION
**Pull request by lakesare**
Continues with migration to Lean v4.29 (https://github.com/fpvandoorn/carleson/pull/545)

## TODOs:
- [x] `integral_smth` (`integral_conj`, etc.) can be further shortened into  `_ = (starRingEnd ℂ) (∫ y in _, _)`
- [ ] didn't pay attention to n of symbols per line
- [ ] didn't look into preexisting `set_option backward.isDefEq.respectTransparency false`
- [x] double-check `instance NNReal.MeasureSpace`
- [ ] I noticed many lemmas in `Calculations.lean` can now be shortened into plain `simp`

### CODE REVIEW

**Comment by lakesare** [comment]
@grunweg, why was the `longLine` linter disabled, does the project not care about line lengths, is it ok to leave long lines introduced in this PR as is?

File: Carleson/Antichain/AntichainOperator.lean [hunk 1]
```diff
@@ -276,7 +276,7 @@ lemma dens1_antichain_sq (h𝔄 : IsAntichain (· ≤ ·) 𝔄)
           hg.enorm.aemeasurable).restrict
       congr 1; simp_rw [← mul_assoc]
       rw [← lintegral_biUnion_finset _ (fun _ _ ↦ measurableSet_E)]
-      · simp
+      · simp only [Finset.mem_filter, Finset.mem_univ, true_and]
```
Comment (grunweg) [inline Carleson/Antichain/AntichainOperator.lean:279]: Is this change needed? Mathlib style is to actually prefer using plain `simp` when that works: https://leanprover-community.github.io/contribute/style.html#squeezing-simp-calls
This is inside the `Carleson` directory, so not critical for merging --- but I guess you'd like to know anyway.

File: Carleson/Antichain/AntichainTileCount.lean [hunk 2]
```diff
@@ -183,40 +184,26 @@ lemma stack_density (𝔄 : Set (𝔓 X)) (ϑ : Θ X) (N : ℕ) (L : Grid X) :
         _ ≤ volume (E₂ 2 p) := by
           gcongr; intro x hx
           have hQ : Q x ∈ ball_(p) (𝒬 p) 1 := subset_cball hx.1.2.1
-          simp only [E₂, TileLike.toSet, smul_fst, smul_snd, mem_inter_iff, mem_preimage, mem_ball]
-          exact ⟨⟨hx.1.1, hx.2⟩, lt_trans hQ one_lt_two⟩
+          simp only [E₂, TileLike.toSet, smul_fst, smul_snd, mem_inter_iff, mem_preimage]
+          refine ⟨⟨hx.1.1, hx.2⟩, ?_⟩
+          apply @ball_subset_ball (WithFunctionDistance (𝔠 p) (↑D ^ 𝔰 p / 4)) instPseudoMetricSpaceWithFunctionDistance _ 1 2 (by norm_num)
```
Comment (grunweg) [inline Carleson/Antichain/AntichainTileCount.lean]: Could `gcongr` help here? (Otherwise, the WithFunctionDistance details smell like some latent defeq abuse... which could be nice to fix, given infinite time.)

File: Carleson/Antichain/AntichainTileCount.lean [hunk 3]
```diff
@@ -183,40 +184,26 @@ lemma stack_density (𝔄 : Set (𝔓 X)) (ϑ : Θ X) (N : ℕ) (L : Grid X) :
...
-                have h2r : (volume (E₂ 2 p) / volume (L : Set X)) ≤ (r : WithTop ℝ≥0)  := by
-                  rw [← hr]
-                  refine le_iSup_of_le (le_refl _) ?_
-                  gcongr
-                  · simp only [NNReal.coe_ofNat, subset_refl]
-                  · rw [hIL]
-                exact ENNReal.le_coe_iff.mp h2r
-            exact ENNReal.le_coe_iff.mp h2d
-          exact ENNReal.le_coe_iff.mp h2c
+          refine le_iSup₂_of_le p hp ?_
```
Comment (grunweg) [inline Carleson/Antichain/AntichainTileCount.lean:196]: Much nicer proof, by the way - thanks!

File: Carleson/Antichain/AntichainTileCount.lean [hunk 4]
```diff
@@ -183,40 +184,26 @@ lemma stack_density (𝔄 : Set (𝔓 X)) (ϑ : Θ X) (N : ℕ) (L : Grid X) :
...
+          refine le_iSup₂_of_le 2 le_rfl ?_
+          gcongr
+          · norm_cast
+          · refine le_iSup₂_of_le p (mem_lowerCubes.mpr ⟨p, hp, le_refl _⟩) ?_
+            refine le_iSup_of_le (le_refl _) ?_
+            gcongr
+            · simp only [NNReal.coe_ofNat, subset_refl]
```
Comment (grunweg) [inline Carleson/Antichain/AntichainTileCount.lean]: Can this be simp?

File: Carleson/Antichain/AntichainTileCount.lean [hunk 5]
```diff
@@ -268,12 +255,12 @@ lemma stack_density (𝔄 : Set (𝔓 X)) (ϑ : Θ X) (N : ℕ) (L : Grid X) :
...
-        rw [dist_comm (α := WithFunctionDistance (𝔠 p) ((D : ℝ) ^ 𝔰 p / 4)) _ (𝒬 q),
-          dist_comm (α := WithFunctionDistance (𝔠 p) ((D : ℝ) ^ 𝔰 p / 4)) _ (𝒬 q')]
-        use (hex q hq).choose_spec.2
-        rw [← hfq, hf, hfq']
-        exact (hex q' hq').choose_spec.2
+        constructor <;> simp only [mem_ball]
+        · rw [dist_comm (α := WithFunctionDistance (𝔠 p) (D ^ 𝔰 p / 4)) _ (𝒬 q)]
+          exact (hex q hq).choose_spec.2
+        · rw [dist_comm (α := WithFunctionDistance (𝔠 p) (D ^ 𝔰 p / 4)) _ (𝒬 q')]
+          rw [←hfq, hf, hfq']
```
Comment (grunweg) [inline Carleson/Antichain/AntichainTileCount.lean]: Can the two `rw`s be combined?

File: Carleson/Antichain/AntichainTileCount.lean [hunk 6]
```diff
@@ -411,7 +403,7 @@ private lemma 𝔄_min_sum_le :
           simp only [𝓛_min, Subtype.exists, exists_prop, toFinset_setOf, Finset.mem_filter,
             Finset.mem_univ, true_and, and_true]
           exact ⟨⟨p, (mem_toFinset.mp hp), rfl⟩, fun _ hL ↦ hL.2.symm⟩
-        simp [h1]
+        simp only [Finset.sum_const, h1, one_smul]
```
Comment (grunweg) [inline Carleson/Antichain/AntichainTileCount.lean:403]: As above

File: Carleson/Antichain/Basic.lean [hunk 7]
```diff
@@ -198,7 +198,7 @@ lemma maximal_bound_antichain {𝔄 : Set (𝔓 X)} (h𝔄 : IsAntichain (· ≤
       refine lintegral_mono fun y ↦ ?_
       rw [enorm_mul]; gcongr
       by_cases hy : Ks (𝔰 p.1) x y = 0
-      · simp [hy]
+      · simp only [hy, enorm_zero, zero_le]
```
Comment (grunweg) [inline Carleson/Antichain/Basic.lean:201]: As above (and many more times below; I won't note all of them any more)

File: Carleson/Antichain/TileCorrelation.lean [hunk 8]
```diff
@@ -396,8 +399,12 @@ lemma I12_le (ha : 4 ≤ a) {p p' : 𝔓 X} (hle : 𝔰 p' ≤ 𝔰 p) {g : X 
   rw [← ENNReal.rpow_le_rpow_iff_of_neg hneg] at h623
   have h0 : ((2 : ℝ≥0∞) ^ (8 * a)) ^ (-(2 * a ^ 2 + a ^ 3 : ℝ)⁻¹) ≠ 0 := by simp
   have h210 : (2 : ℝ≥0∞) ^ (1 : ℝ) ≠ 0 := by rw [ENNReal.rpow_one]; exact two_ne_zero
-  rw [ENNReal.mul_rpow_of_ne_top (Ne.symm (not_eq_of_beq_eq_false rfl)) (by simp [edist_dist]),
-    mul_comm, ← ENNReal.le_div_iff_mul_le (.inl h0) (.inr (by simp [edist_dist]))] at h623
+  rw [ENNReal.mul_rpow_of_ne_top (Ne.symm (not_eq_of_beq_eq_false rfl))
+      (ENNReal.add_ne_top.mpr ⟨ENNReal.one_ne_top, edist_ne_top _ _⟩),
```
Comment (grunweg) [inline Carleson/Antichain/TileCorrelation.lean]: Could this be `by finiteness`?

File: Carleson/Antichain/TileCorrelation.lean [hunk 9]
```diff
@@ -396,8 +399,12 @@ lemma I12_le (ha : 4 ≤ a) {p p' : 𝔓 X} (hle : 𝔰 p' ≤ 𝔰 p) {g : X 
...
+    mul_comm, ← ENNReal.le_div_iff_mul_le (.inl h0)
+      (.inl (ENNReal.rpow_ne_top_of_ne_zero
+        (ENNReal.pow_ne_zero (by norm_num) _)
+        (ENNReal.pow_ne_top (by norm_num))))] at h623
```
Comment (grunweg) [inline Carleson/Antichain/TileCorrelation.lean]: And this one also?

File: Carleson/Antichain/TileCorrelation.lean [hunk 10]
```diff
@@ -313,7 +313,10 @@ open GridStructure
 lemma complex_exp_lintegral {p : 𝔓 X} {g : X → ℂ} (y : X) :
     conj (∫ y1 in E p, conj (Ks (𝔰 p) y1 y) * exp (I * (Q y1 y1 - Q y1 y)) * g y1) =
     ∫ y1 in E p, Ks (𝔰 p) y1 y * exp (I * (-Q y1 y1 + Q y1 y)) * conj (g y1) := by
-  simp only [← integral_conj, map_mul, RingHomCompTriple.comp_apply, RingHom.id_apply]
+  rw [show conj (∫ y1 in E p, conj (Ks (𝔰 p) y1 y) * exp (I * (Q y1 y1 - Q y1 y)) * g y1) =
```
Comment (grunweg) [inline Carleson/Antichain/TileCorrelation.lean]: This is not really pretty --- but as this file doesn't have very high standards anyway, I won't object at all.

File: Carleson/Classical/Basic.lean [hunk 11]
```diff
@@ -86,31 +86,27 @@ local notation "S_" => partialFourierSum
 
 @[simp]
 lemma fourierCoeffOn_mul {a b : ℝ} {hab : a < b} {f : ℝ → ℂ} {c : ℂ} {n : ℤ} :
-    fourierCoeffOn hab (fun x ↦ c * f x) n = c * (fourierCoeffOn hab f n):= by
-  simp only [fourierCoeffOn_eq_integral, one_div, fourier_apply, neg_smul, fourier_neg',
-    fourier_coe_apply', mul_comm, Complex.ofReal_sub, smul_eq_mul, mul_assoc,
-    intervalIntegral.integral_const_mul, Complex.real_smul, Complex.ofReal_inv]
-  ring
+    fourierCoeffOn hab (fun x ↦ c * f x) n = c * (fourierCoeffOn hab f n):=
```
Comment (grunweg) [inline Carleson/Classical/Basic.lean]: Nice clean-up! A pre-existing nit:
```suggestion
    fourierCoeffOn hab (fun x ↦ c * f x) n = c * (fourierCoeffOn hab f n) :=
```

File: Carleson/ToMathlib/MeasureTheory/Function/LorentzSeminorm/Basic.lean [hunk 12]
```diff
@@ -178,8 +178,12 @@ lemma eLorentzNorm_eq_eLpNorm {f : α → ε} (hf : AEStronglyMeasurable f μ) :
           use {x | x ≠ 0}
           constructor
           · refine mem_ae_iff.mpr ?_
-            rw [NNReal.volume_val]
-            simp
+            rw [
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Function/LorentzSeminorm/Basic.lean]: This proof is inside `ToMathlib` --- so it would be good to understand what's going on. Can you at least some a "TODO" or "adaptation note", pointing to the Lean version bump?

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean [hunk 13]
```diff
@@ -5,7 +5,8 @@ import Carleson.ToMathlib.MeasureTheory.Integral.Lebesgue
 open MeasureTheory NNReal ENNReal Set
 
 noncomputable
-instance NNReal.MeasureSpace : MeasureSpace ℝ≥0 := ⟨Measure.Subtype.measureSpace.volume⟩
+instance NNReal.MeasureSpace : MeasureSpace ℝ≥0 where
+  volume := Measure.comap Subtype.val (volume : Measure ℝ)
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: Does this work?
```suggestion
instance NNReal.MeasureSpace : MeasureSpace ℝ≥0 := ⟨Measure.comap Subtype.val (volume : Measure ℝ)⟩
```

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean [hunk 14]
```diff
@@ -16,22 +17,10 @@ lemma NNReal.volume_val {s : Set ℝ≥0} : volume s = volume (Subtype.val '' s)
...
-    · intro hx
-      simp only [val_eq_coe, mem_image, mem_Ioo, Subtype.exists, coe_mk, exists_and_right,
-        exists_eq_right]
-      have : 0 ≤ x := by linarith [hx.1]
-      use this
-      rw [← Subtype.coe_lt_coe, ← Subtype.coe_lt_coe]
-      exact hx
-  rw [NNReal.volume_val, this]
-  simpa only [Real.volume_Ioo, ENNReal.ofReal_eq_ofNat] using by norm_num
+  rw [NNReal.volume_val]
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: Nice clean-up!

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean [hunk 15]
```diff
@@ -191,18 +180,17 @@ theorem NNReal.Ici_eq {a : ℝ≥0} :
 
 lemma NNReal.volume_Iio {b : ℝ≥0} : volume (Set.Iio b) = b := by
   rw [NNReal.volume_val]
-  simp only [val_eq_coe]
-  rw [toReal_Iio_eq_Ico, Real.volume_Ico]
-  simp
+  change volume (NNReal.toReal '' Set.Iio b) = b
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: Though, can you try to figure out to replace the `change` by something explicit (in all four places in this file)?

**Review by grunweg — COMMENTED** [review]
That was a large one - thanks a lot for your help here!

I have a few comments about possible clean-up. All comments inside `Carleson` are optional.

**Comment by grunweg** [comment]
> @grunweg, why was the `longLine` linter disabled, does the project not care about line lengths, is it ok to leave long lines introduced in this PR as is?

I would say it was never enabled :-) My best guess is that this project has really two kinds of style, and inside `Carleson` we don't care much about line length. If you see a natural way to break a long line, you're welcome to, but I won't be strict about it.

File: Carleson/Antichain/AntichainOperator.lean (hunk 1 above)
Comment (lakesare) [reply Carleson/Antichain/AntichainOperator.lean:279]: Surprisingly, yes!
`simp` doesn't work anymore.

Same goes for all similar chages, if I touched it then it was erroring out (didn't touch nonerrory lines to make git diff a bit easier).

> https://leanprover-community.github.io/contribute/style.html#squeezing-simp-calls

Thanks, haven't seen it!

File: Carleson/Antichain/AntichainTileCount.lean (hunk 2 above)
Comment (lakesare) [reply Carleson/Antichain/AntichainTileCount.lean]: `gcongr` doesn't help, but slightly refactored it via other means

File: Carleson/Antichain/AntichainTileCount.lean (hunk 4 above)
Comment (lakesare) [reply Carleson/Antichain/AntichainTileCount.lean]: Yes! Changed.

File: Carleson/Antichain/AntichainTileCount.lean (hunk 5 above)
Comment (lakesare) [reply Carleson/Antichain/AntichainTileCount.lean]: Yes, and turns out `(α := WithFunctionDistance)` can be removed now. Changed.

File: Carleson/Antichain/Basic.lean (hunk 7 above)
Comment (lakesare) [reply Carleson/Antichain/Basic.lean:201]: Same, if I removed `simp` and superseded it with `simp only`, it means the original `simp` was erroring out.

However if I wrote _new_ code that has `simp only` - then that probably can be superseded with `simp`. I'll go through such cases, shouldn't be too many.

File: Carleson/Antichain/TileCorrelation.lean (hunk 8 above)
Comment (lakesare) [reply Carleson/Antichain/TileCorrelation.lean]: Yes! Thanks, updated

File: Carleson/Antichain/TileCorrelation.lean (hunk 10 above)
Comment (lakesare) [reply Carleson/Antichain/TileCorrelation.lean]: You are in fact welcome to object, I couldn't figure out a way to refactor it (other than inserting more `_` as mentioned in the first #todo).

File: Carleson/Antichain/TileCorrelation.lean (hunk 9 above)
Comment (lakesare) [reply Carleson/Antichain/TileCorrelation.lean]: Updated

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean (hunk 13 above)
Comment (lakesare) [reply Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: Yes

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean (hunk 15 above)
Comment (lakesare) [reply Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean]: Can be changed into `erw` ([link](https://github.com/fpvandoorn/carleson/pull/549/changes/1f6bafc5eb53b2d56f7f6a6cf77a912af75e6602)). Not more explicit, but good it's shorter?

File: Carleson/Antichain/TileCorrelation.lean (hunk 10 above)
Comment (lakesare) [reply Carleson/Antichain/TileCorrelation.lean]: Oh actually `erw` works here too.
Will change all such cases to `erw` then.

Comment (lakesare) [reply Carleson/Antichain/TileCorrelation.lean]: Actually I'm not sure if `erw` is better than explicit `show`s? Will wait for your input

File: Carleson/ToMathlib/MeasureTheory/Function/LorentzSeminorm/Basic.lean (hunk 12 above)
Comment (lakesare) [reply Carleson/ToMathlib/MeasureTheory/Function/LorentzSeminorm/Basic.lean]: Managed to refactor it a bit instead ([here](https://github.com/fpvandoorn/carleson/pull/549/changes/a85b07b600292cc7c8ae293917438e66f034dcae)).

**Comment by lakesare** [comment]
Addressed all of your comments.
- Precise changes we discussed (so won't elaborate on them here)
- Went from `have`s and `show`s to `erw` (addresses your "This is not really pretty" comment and my 1st TODO)
- Adjusted `simp` use using the following heuristic (from  [ref 1](https://leanprover-community.github.io/contribute/style.html#squeezing-simp-calls) and [ref 2](https://leanprover-community.github.io/extras/simp.html#non-terminal-simps)):
  - if simp is terminal, always use `simp [...]` (unless it fails and we have no choice but to use `simp only [...]`)
  - if simp is nonterminal, always use `simp only [...]` (unless `rw [...]` also works)
  


The other TODOs are better left for another PR, so this PR is ready and can be merged if it looks good!

File: Carleson/Antichain/TileCorrelation.lean [hunk 16]
```diff
@@ -396,8 +397,11 @@ lemma I12_le (ha : 4 ≤ a) {p p' : 𝔓 X} (hle : 𝔰 p' ≤ 𝔰 p) {g : X 
   rw [← ENNReal.rpow_le_rpow_iff_of_neg hneg] at h623
   have h0 : ((2 : ℝ≥0∞) ^ (8 * a)) ^ (-(2 * a ^ 2 + a ^ 3 : ℝ)⁻¹) ≠ 0 := by simp
   have h210 : (2 : ℝ≥0∞) ^ (1 : ℝ) ≠ 0 := by rw [ENNReal.rpow_one]; exact two_ne_zero
-  rw [ENNReal.mul_rpow_of_ne_top (Ne.symm (not_eq_of_beq_eq_false rfl)) (by simp [edist_dist]),
-    mul_comm, ← ENNReal.le_div_iff_mul_le (.inl h0) (.inr (by simp [edist_dist]))] at h623
+  rw [
+    ENNReal.mul_rpow_of_ne_top (by finiteness) (by finiteness),
+    mul_comm,
+    ← ENNReal.le_div_iff_mul_le (.inl h0) (.inl (by finiteness))
+  ] at h623
```
Comment (grunweg) [inline Carleson/Antichain/TileCorrelation.lean]: style (also below):
```suggestion
  rw [ENNReal.mul_rpow_of_ne_top (by finiteness) (by finiteness), mul_comm,
    ← ENNReal.le_div_iff_mul_le (.inl h0) (.inl (by finiteness))] at h623
```

File: Carleson/Antichain/TileCorrelation.lean [hunk 17]
```diff
@@ -313,7 +313,8 @@ open GridStructure
 lemma complex_exp_lintegral {p : 𝔓 X} {g : X → ℂ} (y : X) :
     conj (∫ y1 in E p, conj (Ks (𝔰 p) y1 y) * exp (I * (Q y1 y1 - Q y1 y)) * g y1) =
     ∫ y1 in E p, Ks (𝔰 p) y1 y * exp (I * (-Q y1 y1 + Q y1 y)) * conj (g y1) := by
-  simp only [← integral_conj, map_mul, RingHomCompTriple.comp_apply, RingHom.id_apply]
+  erw [← integral_conj]
```
Comment (grunweg) [inline Carleson/Antichain/TileCorrelation.lean]: Here's an instance of my `erw` comment.

File: Carleson/Antichain/TileCorrelation.lean [hunk 18]
```diff
@@ -600,12 +604,13 @@ lemma bound_6_2_26_aux {p p' : 𝔓 X} {g : X → ℂ} :
     congr; ext y
     simp_rw [mul_add I, mul_sub I, sub_eq_add_neg, exp_add]
     ring_nf
-  have hx1 : ‖exp (I * Q x.1 x.1)‖ₑ = 1 := enorm_exp_I_mul_ofReal _
-  have hx2 : ‖exp (I * -Q x.2 x.2)‖ₑ = 1 := mod_cast enorm_exp_I_mul_ofReal _
   simp only [I12, enorm_mul]
-  simp_rw [heq, integral_mul_const, enorm_mul, RCLike.enorm_conj, ← mul_assoc]
-  rw [hx1, hx2]
-  simp only [mul_neg, mul_one, correlation]
+  erw [
```
Comment (grunweg) [inline Carleson/Antichain/TileCorrelation.lean]: Another (and I'll stop flagging them)

File: Carleson/Classical/Basic.lean [hunk 19]
```diff
@@ -86,31 +86,25 @@ local notation "S_" => partialFourierSum
...
   simp only [fourierCoeffOn_eq_integral, one_div, fourier_apply, neg_smul, fourier_neg',
-    fourier_coe_apply', Complex.ofReal_sub, Pi.add_apply, smul_eq_mul, mul_add, Complex.real_smul,
-    Complex.ofReal_inv]
-  rw [← mul_add, ← intervalIntegral.integral_add]
-  · ring_nf
-    exact hf.continuousOn_mul (Continuous.continuousOn (by fun_prop))
-  · exact hg.continuousOn_mul (Continuous.continuousOn (by fun_prop))
+    fourier_coe_apply', Complex.ofReal_sub, Pi.add_apply, smul_eq_mul, mul_add]
+  rw [intervalIntegral.integral_add
+    (by ring_nf; exact hf.continuousOn_mul (Continuous.continuousOn (by fun_prop)))
```
Comment (grunweg) [inline Carleson/Classical/Basic.lean]:
```suggestion
    (by ring_nf; exact hf.continuousOn_mul (by fun_prop))
```
also works; same for `g`

File: Carleson/Classical/ControlApproximationEffect.lean [hunk 20]
```diff
@@ -347,12 +343,27 @@ lemma le_CarlesonOperatorReal {g : ℝ → ℂ} (hg : IntervalIntegrable g volum
...
+              simp
+              ring
         _ =   ‖∫ y in {y | dist x y ∈ Set.Ioo r 1}, g y * K x y * exp (I * n * y)‖ₑ
             + ‖∫ y in {y | dist x y ∈ Set.Ioo r 1}, (conj ∘ g) y * K x y * exp (I * n * y)‖ₑ := by
-          congr 1 <;>
-          rw [integral_const_mul, enorm_mul, show (-n * x : ℂ) = (-n * x : ℝ) by norm_cast,
-            enorm_exp_I_mul_ofReal, one_mul]
+          congr 1
+          · rw [
+              show ∫ y in _, _ = _ * ∫ y in _, g y * K x y * _ from integral_const_mul _ _,
```
Comment (grunweg) [inline Carleson/Classical/ControlApproximationEffect.lean]: optional: if `show _ from integral_const_mul _ _` can be replaced by `rw [integral_const_mul]` under the backward compatibility option, that might be an even nicer fix (also below).

File: Carleson/Discrete/ExceptionalSet.lean [hunk 21]
```diff
@@ -563,9 +565,11 @@ private lemma disjoint_balls (h : u' ≠ u'') :
 include hu hu' in
 private lemma mem_big_ball : 𝒬 u' ∈ big_ball m u := by
   have : 𝒬 m ∈ ball_(u) (𝒬 u') 100 := ball_eq_ball hu hu' ▸ 𝒬m_mem_ball hu'
-  rw [@mem_ball_comm] at this
-  simp only [big_ball, mem_ball] at this ⊢
-  exact this.trans (by norm_num)
+  have h2 : 𝒬 u' ∈ ball_(u) (𝒬 m) 100 := @mem_ball_comm _ (instPseudoMetricSpaceWithFunctionDistance (x := 𝔠 u) (r := ↑D ^ 𝔰 u / 4)) _ _ _ |>.mp this
```
Comment (grunweg) [inline Carleson/Discrete/ExceptionalSet.lean]: Similar case here

**Review by grunweg — COMMENTED** [review]
One more general comment: `erw` and `rw` differ in that they work at different transparency (or using `erw` is a sign something somewhere is not ideal).
If `rw` used to work before the bump, but `erw` is required now, that's almost surely the defeq changes in 4.29 --- and changing to `erw` makes it harder to search for this.

Inside `ToMathlib`, please use `rw` and `set_option backward.isDefEq.respectTransparency false in` instead --- this makes it easy to find all instances.
Doing so inside `Carleson` would be nice.


A similar comment applies to some other adaptions: if the original proof works under the backward option, that can be nicer than a new proof that is not understood. I don't feel very strongly inside `Carleson`, again.

File: Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean [hunk 22]
```diff
@@ -16,22 +16,8 @@ lemma NNReal.volume_val {s : Set ℝ≥0} : volume s = volume (Subtype.val '' s)
...
-    · intro hx
-      simp only [val_eq_coe, mem_image, mem_Ioo, Subtype.exists, coe_mk, exists_and_right,
-        exists_eq_right]
-      have : 0 ≤ x := by linarith [hx.1]
-      use this
-      rw [← Subtype.coe_lt_coe, ← Subtype.coe_lt_coe]
-      exact hx
-  rw [NNReal.volume_val, this]
-  simpa only [Real.volume_Ioo, ENNReal.ofReal_eq_ofNat] using by norm_num
+  erw [volume_val, NNReal.image_coe_Ioo, Real.volume_Ioo, ofReal_eq_ofNat]
```
Comment (grunweg) [inline Carleson/ToMathlib/MeasureTheory/Measure/NNReal.lean:19]: Can this become an `rw` under the backward option? (I like the new proof; perhaps we can keep the best of both worlds!)

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 23]
```diff
@@ -750,9 +751,12 @@ theorem simple_nontangential_operator (ha : 4 ≤ a)
       (4 : ℝ≥0) • globalMaximalFunction volume 1 (czOperator K r g) by rfl]
   apply le_trans <| eLpNorm_add_le (by fun_prop) (by fun_prop) one_le_two
   apply le_trans <| add_le_add (eLpNorm_add_le (by fun_prop) (by fun_prop) one_le_two) (by rfl)
-  simp_rw [eLpNorm_const_smul' (f := globalMaximalFunction volume 1 g),
-      eLpNorm_const_smul' (f := globalMaximalFunction volume 1 (czOperator K r g)),
-      enorm_NNReal, add_assoc, ← add_mul]
+  rw [
+    show eLpNorm ((4 : ℝ≥0) • globalMaximalFunction volume 1 (czOperator K r g)) 2 volume = ‖(4 : ℝ≥0)‖ₑ * eLpNorm (globalMaximalFunction volume 1 (czOperator K r g)) 2 volume from eLpNorm_const_smul',
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:755]: Similar comment as above

**Review by grunweg — COMMENTED** [review]
Two more comments. Thanks a lot for doing this!

**Comment by lakesare** [comment]
Went through all `erw`s I introduced in this PR, and changed them to `set_option backward.isDefEq.respectTransparency false in` (whenever possible!).

Didn't touch `show smth from smth` I had to introduce.

**Comment by grunweg** [comment]
Thanks again! I just pushed a few last clean-up, and will merge this into my branch now.
